US07501425B1
4-(Bicyclo[2.2.1]hept-2-ylamino)-2-(methylthio)-5-pyrimidinecarbonitrile (exo)
To a 0° C. solution of 10.0 g (53.9 mmol) of 4-chloro-2-(methylthio)-5-pyrimidinecarbonitrile in 100 mL of dichloromethane is added 9.0 mL (64.6 mmol) of triethylamine followed by dropwise addition of 7.0 mL (59.3 mmol) of exo-2-aminonorbornane. The reaction mixture is stirred at 0° C. for 2 hours. The resulting precipitate of triethylamine hydrochloride is filtered. The filtrate is washed three times with saturated aqueous solution of sodium bicarbonate. The aqueous phase is back extracted twice with dichloromethane. The combined organic phase is concentrated, and the residue is purified by filtering through a short column of silica gel eluted with dichloromethane to give 8.9 g (64%) of the title compound.

reactant | 4-chloro-2-(methylthio)-5-pyrimidinecarbonitrile | 53.9 mmol, 10.0 g | ClC1=NC(=NC=C1C#N)SC | C6H4ClN3S
reactant | triethylamine | 64.6 mmol, 9.0 mL | C(C)N(CC)CC | C6H15N
reactant | exo-2-aminonorbornane | 59.3 mmol, 7.0 mL | C1CC2CC1CC2N | C7H13N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(Bicyclo[2.2.1]hept-2-ylamino)-2-(methylthio)-5-pyrimidinecarbonitrile | 8.9 g, 64% | C12C(CC(CC1)C2)NC2=NC(=NC=C2C#N)SC | C13H16N4S
